US08664203B2
10.1. 4-[(S)-2-tert-Butoxycarbonylamino-3-(4-iodo-phenyl)-propionyl]-piperazine-1-carboxylic acid butyl ester
This compound was prepared using a method analogous to that of Example 8, step 8.5 Boc-Phe(4-I)-OH replacing 2-phenoxyphenylboronic acid and piperazine-1-carboxylic acid butyl ester replacing intermediate 8.4.

reactant | Boc-Phe(4-I)-OH | N([C@@H](CC1=CC=C(C=C1)I)C(=O)O)C(=O)OC(C)(C)C | C14H18INO4
reactant | piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-[(S)-2-tert-Butoxycarbonylamino-3-(4-iodo-phenyl)-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC1=CC=C(C=C1)I)NC(=O)OC(C)(C)C)=O | C23H34IN3O5
